US07977441B2
6 g of 1-bromo-4-methylnaphthalene, 0.11 g of dichlorobis(triphenylphosphine)palladium, 0.17 g of triphenylphosphine, 0.19 g of copper iodide, and 3.1 g of trimethylsilylacetylene were added to 60 ml of triethylamine, and the mixture was allowed to react at 90° C. for 16 hours. After evaporation of the solvent by an evaporator, the compounds obtained were extracted with added ethyl ether. The ethyl ether layer was washed thrice with 300 ml of distilled water, dried over anhydrous magnesium sulfate for 24 hours, and filtered, and after removal of the solvent in the filtrate by vaporization, the residue was purified by column chromatography, by using hexane as the developing solvent. 30 ml of diethylene glycol and 4.4 g of potassium hydroxide were added to the compound obtained, and the mixture was stirred at room temperature for 3 hours. The compounds generated were extracted with added ethyl ether. The ethyl ether layer was washed twice with 300 ml of distilled water, dried over anhydrous magnesium sulfate for 24 hours and filtered, and the solvent in the filtrate was evaporated. The residue was purified by column chromatography by using methylene chloride/hexane (1/4) as the developing solvent, to give 1.6 g of 1-ethynyl-4-methylnaphthalene.

reactant | 1-bromo-4-methylnaphthalene | 6 g | BrC1=CC=C(C2=CC=CC=C12)C | C11H9Br
reactant | trimethylsilylacetylene | 3.1 g | C[Si](C)(C)C#C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium | 0.11 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.19 g | [Cu](I)I
catalyst | triphenylphosphine | 0.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
product | 1-ethynyl-4-methylnaphthalene | 1.6 g | C(#C)C1=CC=C(C2=CC=CC=C12)C | C13H10
